US07981874B2
Phenylphosphonic dichloride (2.00 g, 10.26 mmol) was taken up in 1:1 THF:Et2O (100 mL) and cooled to −78° C. Vinylmagnesium bromide (21.54 mL, 21.54 mmol, 1.0 M in THF) was added dropwise. After stirring for 2 h at −78° C., the cold reaction was poured into 2 N HCl, and the mixture was extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried (MgSO4), and evaporated to a yellow oil. Flash chromatography (0-10% MeOH/EtOAc) afforded phenyl(divinyl)phosphine oxide as a colorless solid. 1H NMR (CDCl3, 600 MHz) δ 7.72-7.67 (m, 2H), 7.54-7.50 (m, 1H), 7.49-7.45 (m, 2H), 6.44 (ddd, J=24.5, 18.7, 12.4 Hz, 2H), 6.29-6.18 (m, 4H). MS: cal'd 179 (MH+), exp 179 (MH+).

reactant | Phenylphosphonic dichloride | 10.26 mmol, 2.00 g | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
reactant | THF | C1CCOC1 | C4H8O
reactant | Vinylmagnesium bromide | 21.54 mmol, 1.0 M, 21.54 mL | C(=C)[Mg]Br
reactant | HCl | 2 N | Cl | ClH
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | phenyl(divinyl)phosphine oxide | C1(=CC=CC=C1)P(C=C)(C=C)=O | C10H11OP
